US07700634B2
1-(Cyclohexyl)methyl-3-{5-[(diethylamino)methyl]-[1,2,4]-thiadiazol-3-yl}-7-methoxy-1H-indole, hydrochloride salt
To a solution of methanesulfonic acid 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester (93 mg, 0.2 mmol) in tetrahydrofuran (1 ml) was added diethylamine (0.22 ml, 2.13 mmol) and the reaction subjected to microwave irradiation at 150° C. for 15 minutes. The reaction was poured into a separating funnel and diluted with dichloromethane (40 ml). The combined organics were washed with 5% aqueous sodium carbonate solution (2×20 ml), brine (2×20 ml), dried over magnesium sulfate and the solvent removed in vacuo. The resulting residue was purified by flash column chromatography to afford the title compound (54 mg, 0.13 mmol) as the free base. The free base was dissolved in dichloromethane and hydrogen chloride (2M solution in diethyl ether; 1.0 ml, 2.0 mmol) was added. The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt. 1H NMR (400 MHz, CD3OD): 0.95-1.12 (2H, m), 1.16-1.27 (3H, m), 1.45 (6H, t, J 7), 1.55-1.63 (2H, m), 1.63-1.8 (3H, m), 1.8-1.95 (1H, m), 3.28-3.32 (4H, m), 3.97 (3H, s), 4.3 (2H, d, J 7), 4.96 (2H, s), 6.79 (1H, d, J 8), 7.13 (1H, t, J 8), 7.95 (1H, s), 8.04 (1H, d, J 8); EsIMS: m/z 413.1 [M+H]+.

reactant | methanesulfonic acid 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester | 0.2 mmol, 93 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NSC(=N1)COS(=O)(=O)C | C20H25N3O4S2
reactant | diethylamine | 2.13 mmol, 0.22 ml | C(C)NCC | C4H11N
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-(Cyclohexyl)methyl-3-{5-[(diethylamino)methyl]-[1,2,4]-thiadiazol-3-yl}-7-methoxy-1H-indole, hydrochloride salt | 0.13 mmol, 54 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NSC(=N1)CN(CC)CC | InChI=1S/C23H32N4OS.ClH/c1-4-26(5-2)16-21-24-23(25-29-21)19-15-27(14-17-10-7-6-8-11-17)22-18(19)12-9-13-20(22)28-3;/h9,12-13,15,17H,4-8,10-11,14,16H2,1-3H3;1H
